US06159904
21-1) Synthesis of 3-bromo-6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one
1.9 Grams (7.2 mmol) of 6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one was dissolved in 28 ml of ethanol. Then, 1.2 g (7.5 mmol) of bromine was dropwise added with an ice bath cooling, and the mixture was stirred at the same temperature for 1 hour, then the ice bath was removed and further stirred for 1 hour. Water was added to the reaction mixture, and the reaction mixture was extracted with chloroform three times. An organic layer was washed with a saturated sodium chloride aqueous solution three times, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 2.4 g (yield 97%) of the titled compound.

reactant | 6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one | 7.2 mmol | C(C)OC(=O)C=1C(=C2C(CCSC2=C(C1)C)=O)C | C14H16O3S
reactant | bromine | 7.5 mmol, 1.2 g | BrBr | Br2
solvent | ethanol | 28 ml | C(C)O | C2H6O
product | 3-bromo-6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one | 2.4 g, yield 97% | BrC1CSC2=C(C=C(C(=C2C1=O)C)C(=O)OCC)C | C14H15BrO3S
